US08486939B2
Using a similar procedure to Example 47, reaction of 1-[4-chloro-6-(4-morpholinyl)-2-pyrimidinyl]-2-(difluoromethyl)-1H-benzimidazole (International Publ. No. WO 2008/032028, the disclosure of which is incorporated herein by reference in its entirety) and 3-pyridinylboronic acid gave 2-(difluoromethyl)-1-[4-(4-morpholinyl)-6-(3-pyridinyl)-2-pyrimidinyl]-1H-benzimidazole in 77% yield: mp (CH2Cl2/hexanes) 172-179° C.; 1H NMR (DMSO-d6) δ 9.44 (d, J=2.2 Hz, 1H), 8.75 (dd, J=4.8, 1.5 Hz, 1H), 8.61 and 8.59 (2m, 1H), 8.39 (d, J=8.20 Hz, 1H), 7.88 (d, J=8.0 Hz, 1H), 7.82 (t, JHF=52.8 Hz, 1H), 7.62 (dd, J=8.0, 4.8 Hz, 1H), 7.55-7.51 (m, 2H), 7.46-7.42 (m, 1H), 3.88-3.84 (m, 4H), 3.79-3.77 (m, 4H); Anal. Calcd. for C21H18F2N6O1.9H2O: C, 49.1; H, 4.8; N, 15.6. Found: C, 49.0; H, 4.4; N, 15.0%

reactant | 1-[4-chloro-6-(4-morpholinyl)-2-pyrimidinyl]-2-(difluoromethyl)-1H-benzimidazole | ClC1=NC(=NC(=C1)N1CCOCC1)N1C(=NC2=C1C=CC=C2)C(F)F | C16H14ClF2N5O
reactant | 3-pyridinylboronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 2-(difluoromethyl)-1-[4-(4-morpholinyl)-6-(3-pyridinyl)-2-pyrimidinyl]-1H-benzimidazole | 77% yield | FC(C1=NC2=C(N1C1=NC(=CC(=N1)N1CCOCC1)C=1C=NC=CC1)C=CC=C2)F | C21H18F2N6O
